US07279478B2
Step 1 (4-bromophenyl)(pyridin-3-yl)methanol
Using the same protocol as described in example 22, step 1, 3-bromopyridine (482 μL, 5.0 mmol) was added to 4-bromobenzaldehyde (1.018 g, 5.5 mmol). The crude residue was chromatographed on silica gel using 1% NH4OH and 9% MeOH in dichloromethane to afford the title compound.

reactant | 3-bromopyridine | 5.0 mmol, 482 μL | BrC=1C=NC=CC1 | C5H4BrN
reactant | 4-bromobenzaldehyde | 5.5 mmol, 1.018 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | (4-bromophenyl)(pyridin-3-yl)methanol | BrC1=CC=C(C=C1)C(O)C=1C=NC=CC1 | C12H10BrNO
